### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/BilinearMap): associativity of compl/compr and comp

### PR DESCRIPTION
**Pull request by DanielJHorton**
---
This PR adds theorems on the associativity of compositions of linear and bilinear maps in the file `LinearAlgebra/BilinearMap.lean`.

These are:
```
theorem compl₂_comp ... : h.compl₂ (g ∘ₛₗ f) = (h.compl₂ g).compl₂ f

theorem compl₁₂_comp₁ ... : f.compl₁₂ (g ∘ₗ h) g' = (f.compl₁₂ g g') ∘ₗ h

theorem compl₁₂_comp₂ ... :  f.compl₁₂ g (g' ∘ₗ h') = (f.compl₁₂ g g').compl₂ h'

theorem compl₁₂_comp₁₂ ... : f.compl₁₂ (g ∘ₗ h) (g' ∘ₗ h') = (f.compl₁₂ g g').compl₁₂ h h'

theorem compr₂_comp ... : f.compr₂ (h ∘ₗ g) = (f.compr₂ g).compr₂ h
```

Additionally, it also includes:
- A theorem `compr₂_id`, analogous to the already existing theorems `compl₂_id` and `compl₁₂_id_id`
- Removal of some unused variable declarations in `section CommSemiring`

### CODE REVIEW

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 1]
```diff
@@ -348,6 +353,19 @@ theorem compl₁₂_id_id [SMulCommClass R₂ R₁ Pₗ] (f : Mₗ →ₗ[R₁]
   ext
   simp_rw [compl₁₂_apply, id_coe, _root_.id]
 
+theorem compl₁₂_comp₁ {Tₗ : Type*} [SMulCommClass R₂ R₁ Pₗ] [AddCommMonoid Tₗ] [Module R₁ Tₗ]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/BilinearMap.lean]: this should probably be called `compl₁₂_comp_left`?

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 2]
```diff
@@ -348,6 +353,19 @@ theorem compl₁₂_id_id [SMulCommClass R₂ R₁ Pₗ] (f : Mₗ →ₗ[R₁]
...
+    (f : Mₗ →ₗ[R₁] N →ₗ[R₂] Pₗ) (g : Qₗ →ₗ[R₁] Mₗ) (g' : Qₗ' →ₗ[R₂] N) (h : Tₗ →ₗ[R₁] Qₗ) :
+    f.compl₁₂ (g ∘ₗ h) g' = (f.compl₁₂ g g') ∘ₗ h := rfl
+
+theorem compl₁₂_comp₂ {Tₗ' : Type*} [SMulCommClass R₂ R₁ Pₗ] [AddCommMonoid Tₗ'] [Module R₂ Tₗ']
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/BilinearMap.lean]: `compl₁₂_comp_right`?

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 3]
```diff
@@ -348,6 +353,19 @@ theorem compl₁₂_id_id [SMulCommClass R₂ R₁ Pₗ] (f : Mₗ →ₗ[R₁]
...
+    (f : Mₗ →ₗ[R₁] N →ₗ[R₂] Pₗ) (g : Qₗ →ₗ[R₁] Mₗ) (g' : Qₗ' →ₗ[R₂] N) (h' : Tₗ' →ₗ[R₂] Qₗ') :
+    f.compl₁₂ g (g' ∘ₗ h') = (f.compl₁₂ g g').compl₂ h' := rfl
+
+theorem compl₁₂_comp₁₂ {Tₗ Tₗ' : Type*} [SMulCommClass R₂ R₁ Pₗ] [AddCommMonoid Tₗ]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/BilinearMap.lean]: You can keep this name, but you'll need to flip the equality below so it matches the name.
If you want to keep it as is, then the name can be something like `compl₁₂_comp_comp` maybe?

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 4]
```diff
@@ -381,6 +399,18 @@ theorem compr₂_apply [Module R A] [Module A M] [Module A Qₗ]
...
+@[simp]
+theorem compr₂_id [Module R A] [Module A M] [IsScalarTower R A Pₗ] (f : M →ₗ[A] Nₗ →ₗ[R] Pₗ) :
+    f.compr₂ LinearMap.id = f := rfl
+
+omit [Module R M] in
+theorem compr₂_comp {Tₗ : Type*} [AddCommMonoid Tₗ] [Module R Tₗ] [Module A Tₗ] [Module R A]
+    [Module A M] [Module A Qₗ] [SMulCommClass R A Qₗ] [SMulCommClass R A Tₗ]
+    [IsScalarTower R A Qₗ] [IsScalarTower R A Pₗ] [IsScalarTower R A Tₗ]
+    (f : M →ₗ[A] Nₗ →ₗ[R] Pₗ) (g : Pₗ →ₗ[A] Qₗ) (h : Qₗ →ₗ[A] Tₗ) :
+    f.compr₂ (h ∘ₗ g) = (f.compr₂ g).compr₂ h := rfl
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/BilinearMap.lean:412]: Can you add the semilinear version of these? (the `compr₂ₛₗ` version)

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 5]
```diff
@@ -348,6 +355,17 @@ theorem compl₁₂_id_id [SMulCommClass R₂ R₁ Pₗ] (f : Mₗ →ₗ[R₁]
   ext
   simp_rw [compl₁₂_apply, id_coe, _root_.id]
 
+theorem compl₁₂_comp_left [SMulCommClass R₂ R₁ Pₗ] (f : Mₗ →ₗ[R₁] N →ₗ[R₂] Pₗ) (g : Qₗ →ₗ[R₁] Mₗ)
+    (g' : Qₗ' →ₗ[R₂] N) (h : Tₗ →ₗ[R₁] Qₗ) : f.compl₁₂ (g ∘ₗ h) g' = (f.compl₁₂ g g') ∘ₗ h := rfl
+
+theorem compl₁₂_comp_right [SMulCommClass R₂ R₁ Pₗ] (f : Mₗ →ₗ[R₁] N →ₗ[R₂] Pₗ) (g : Qₗ →ₗ[R₁] Mₗ)
+    (g' : Qₗ' →ₗ[R₂] N) (h' : Tₗ' →ₗ[R₂] Qₗ') : f.compl₁₂ g (g' ∘ₗ h') = (f.compl₁₂ g g').compl₂ h'
+    := rfl
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/BilinearMap.lean]:
```suggestion
    (g' : Qₗ' →ₗ[R₂] N) (h' : Tₗ' →ₗ[R₂] Qₗ') :
    f.compl₁₂ g (g' ∘ₗ h') = (f.compl₁₂ g g').compl₂ h' := rfl
```

**Comment by themathqueen** [comment]
This looks good. Can you "Resolve conversation" when you address the comments please? And when you're ready for another review, remember to comment `-awaiting-author`.

**Comment by DanielJHorton** [comment]
> This looks good. Can you "Resolve conversation" when you address the comments please? And when you're ready for another review, remember to comment `-awaiting-author`.

Thanks for all your feedback. I appreciate the patience with me as a new contributor.

**Comment by DanielJHorton** [comment]
-awaiting-author

**Review by ocfnash — APPROVED** [review]
Thanks!

At some point we really should tidy up the `variable`s on lines 311-323 but not as part of these changes.

bors merge
